US07723332B2
According to general procedure C, 4-Bromo-2-fluoro-benzenesulfonyl chloride (0.40 g, 1.46 mmol) and cyclopropylamine (0.25 mL, 3.65 mmol) were stirred together with dry dichloromethane (5 mL) for 16 hours. 4-bromo-N-cyclopropyl-2-fluorobenzenesulfonamide (190 mg, 44%) was provided after purification. MS (ESI) m/z 294. HPLC purity 98.6% at 210-370 nm, 10.2 min.; the Xterra® RP18 column, 3.5μ, 150×4.6 mm column, 1.2 mL/min., 85/15-5/95 (ammonium formate buffer pH=3.5/ACN+MeOH) for 10 min., hold 4 min.

reactant | 4-Bromo-2-fluoro-benzenesulfonyl chloride | 1.46 mmol, 0.40 g | BrC1=CC(=C(C=C1)S(=O)(=O)Cl)F | C6H3BrClFO2S
reactant | cyclopropylamine | 3.65 mmol, 0.25 mL | C1(CC1)N | C3H7N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 4-bromo-N-cyclopropyl-2-fluorobenzenesulfonamide | 190 mg, 44% | BrC1=CC(=C(C=C1)S(=O)(=O)NC1CC1)F | C9H9BrFNO2S
